US08133705B2
In the same manner as in Example 12, a cell-dispersion solution was prepared. Into a flask in which substrates, that is, 900 mg of 1-benzyl-3-pyrrolidinone and 928.2 mg of (S)-α-phenethylamine were added in advance, 3 ml of the cell-dispersion solution, 3.7 mg of pyridoxal phosphate, and 3 mL of a 1M potassium phosphate buffer (pH 6.8) were introduced. The whole volume was adjusted to 30 mL by adding deionized water therein. This was reacted at 30° C. for 16 hours with stirring. After the reaction is completed, 1-benzyl-3-aminopyrrolidine thus produced in the reaction mixture was analyzed via HPLC with the conditions described below. This showed that 1-benzyl-3-aminopyrrolidine was produced with a conversion rate of 75.1%, and it had a (S) configuration and optical purity of 79.2% e.e.

reactant | 1-benzyl-3-pyrrolidinone | 900 mg | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | pyridoxal phosphate | 3.7 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | potassium phosphate | 1M, pH 6.8 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | O | H2O
product | 1-benzyl-3-aminopyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)N | C11H16N2
